US08609644B2
6(E)-Hydroxyiminoandrostane-3,17-dione (II-at)
The title compound II-at was prepared in 70% yield from 3,3:17,17-bis(ethylendioxy)-6(E)-hydroxyiminoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. The residue was purified by flash chromatography (SiO2, n-hexane/acetone 70/30). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.61 (s, 1H), 3.29 (dd, 1H), 2.61-1.03 (m, 19H), 0.88 (s, 3H), 0.79 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-6(E)-hydroxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\C3CCCC[C@]3(C)[C@H]1CC4)=N/O | C23H35NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6(E)-Hydroxyiminoandrostane-3,17-dione | 70% yield | O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C19H27NO3
